US07932271B2
(2,5-Dichloro-4-pyridyl)(2,6-difluorophenyl)methanol
Under an argon atmosphere, n-butyl lithium (a 1.60M hexane solution, 2.33 ml, 3.72 mmol) was added to a tetrahydrofuran solution (12 ml) of diisopropylamine (0.520 ml, 3.72 mmol) at −78° C. The resulting mixture was then stirred at −78° C. for 30 minutes. To the reaction mixture was added a tetrahydrofuran solution (2 ml) of 2,5-dichloropyridine (500 mg, 3.38 mmol). The resulting mixture was stirred at −78° C. for 1 hour. A tetrahydrofuran solution (2 ml) of 2,6-difluorobenzaldehyde (395 mg, 3.72 mmol) was then added to the reaction mixture, followed by stirring at −78° C. for 2 hours. To the reaction mixture was added 1N hydrochloric acid (7 ml) and then, the temperature of the reaction mixture was raised to room temperature. The reaction mixture was diluted with ethyl acetate. The diluted mixture was washed with water and brine, dried over magnesium sulfate, and concentrated. The solid thus obtained was washed with dichloromethane to give the title compound (746 mg, 2.57 mmol, 76%) as a white solid.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 3.72 mmol, 0.520 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,5-dichloropyridine | 3.38 mmol, 500 mg | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | 2,6-difluorobenzaldehyde | 3.72 mmol, 395 mg | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | hydrochloric acid | 1N, 7 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.60M | CCCCCC | C6H14
product | (2,5-Dichloro-4-pyridyl)(2,6-difluorophenyl)methanol | 2.57 mmol, 746 mg, 76% | ClC1=NC=C(C(=C1)C(O)C1=C(C=CC=C1F)F)Cl | C12H7Cl2F2NO
